US06960578B2
{4-(2-Fluoro-phenylethynyl)-2-[3-(3-imidazol-1-yl-phenyl)-3-oxo-propionylamino]-phenyl}-carbamic acid tert.-butyl ester
Prepared from [2-amino-4-(2-fluoro-phenylethynyl)-phenyl]-carbamic acid tert.-butyl ester (Example G34) (245 mg, 0.75 mmol)and 6-(3-imidazol-1-yl-phenyl)-2,2-dimethyl-[1,3]dioxin-4-one (Example J10) (300 mg, 1.1 mmol) according to the general procedure K. Obtained as a yellow-brown foam (211 mg).

reactant | [2-amino-4-(2-fluoro-phenylethynyl)-phenyl]-carbamic acid tert.-butyl ester | 0.75 mmol, 245 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=C(C=CC=C1)F)N)=O | C19H19FN2O2
reactant | 6-(3-imidazol-1-yl-phenyl)-2,2-dimethyl-[1,3]dioxin-4-one | 1.1 mmol, 300 mg | N1(C=NC=C1)C=1C=C(C=CC1)C1=CC(OC(O1)(C)C)=O | C15H14N2O3
product | {4-(2-Fluoro-phenylethynyl)-2-[3-(3-imidazol-1-yl-phenyl)-3-oxo-propionylamino]-phenyl}-carbamic acid tert.-butyl ester | 211 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=C(C=CC=C1)F)NC(CC(=O)C1=CC(=CC=C1)N1C=NC=C1)=O)=O | C31H27FN4O4
